US07338960B2
Ethyl {[2-methyl-4-({1-[4′-(trifluoromethyl)-3-biphenylyl]pentyl}oxy)phenyl]oxy}acetate
Ethyl [(4-{[1-(3-bromophenyl)pentyl]oxy}-2-methylphenyl)oxy]acetate (200 mg, 0.46 mmol) was dissolved in dry THF (3 mL), and treated with 4-(trifluoromethyl)benzeneboronic acid (104 mg, 0.55 mmol), Pd(PPh3)4 (53 mg, 0.046 mmol) and sodium carbonate (146 mg, 1.38 mmol) in water (2 mL). The mixture was then heated at 70° C. for 3 hours, cooled to rt and partitioned between EtOAc and water. The layers were separated and the organic layer washed with brine, dried (Na2SO4) and concentrated to give a brown oil. Purification by Biotage™ chromatography (silica, 40 g cartridge) eluting with petroleum ether 40-60° C.:EtOAc (19:1) afforded the title compound as a colourless gum (142 mg).

reactant | Ethyl [(4-{[1-(3-bromophenyl)pentyl]oxy}-2-methylphenyl)oxy]acetate | 0.46 mmol, 200 mg | BrC=1C=C(C=CC1)C(CCCC)OC1=CC(=C(C=C1)OCC(=O)OCC)C | C22H27BrO4
reactant | 4-(trifluoromethyl)benzeneboronic acid | 0.55 mmol, 104 mg | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
reactant | sodium carbonate | 1.38 mmol, 146 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | water | 2 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.046 mmol, 53 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Ethyl {[2-methyl-4-({1-[4′-(trifluoromethyl)-3-biphenylyl]pentyl}oxy)phenyl]oxy}acetate | 142 mg | CC1=C(C=CC(=C1)OC(CCCC)C=1C=C(C=CC1)C1=CC=C(C=C1)C(F)(F)F)OCC(=O)OCC | C29H31F3O4
